US05580984
(2S,3S,5S)-2-Amino-5-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane:
A solution of 40 mmol of crude (4S,6S,1S)-6-(1-amino-2-phenylethyl)-4-benzyl-2-phenyl-3-aza-2-bora-1-oxacyclohexane in 700 ml of anhydrous THF was cooled to -40° C. and treated dropwise over a period of 1 h with a solution of 7.83 g (27.9 mmol) of ((5-thiazolyl)methyl)-(4-nitrophenyl)carbonate in 300 ml of dry THF. The resulting solution was allowed to warm to 0° C. for 3 h, then to ambient temperature for 16 h. The solvent was removed in vacuo, and the residue was taken up in 700 ml of ethyl acetate, washed with three 150 ml portions of 1N aqueous NaOH and one 150 ml portion of brine. The organic phase was dried over Na2SO4 and concentrated in vacuo. Purification of the residue by silica gel chromatography using methanol/chloroform mixtures provided the desired compound mixed with its regioisomer. A second chromatography using 1-3% isopropylamine in chloroform provided 5.21 g of the desired compound which solidified upon standing.

reactant | (4S,6S,1S)-6-(1-amino-2-phenylethyl)-4-benzyl-2-phenyl-3-aza-2-bora-1-oxacyclohexane | 40 mmol | N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@@H](NB(O1)C1=CC=CC=C1)CC1=CC=CC=C1 | C24H27BN2O
reactant | ((5-thiazolyl)methyl)-(4-nitrophenyl)carbonate | 27.9 mmol, 7.83 g | C1=CC(=CC=C1[N+](=O)[O-])OC(=O)OCC2=CN=CS2 | C11H8N2O5S
solvent | THF | 700 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | (2S,3S,5S)-2-Amino-5-(N-((5-thiazolyl)methoxycarbonyl)amino)-1,6-diphenyl-3-hydroxyhexane | N[C@@H](CC1=CC=CC=C1)[C@H](C[C@H](CC1=CC=CC=C1)NC(=O)OCC1=CN=CS1)O | C23H27N3O3S
